US08791139B2
Synthesis of methyl 1-(3-chloropyridin-2-yl)-3-[(hydroxyimino)methyl]-1H-pyrazole-5-carboxylate
Methyl 1-(3-chloropyridin-2-yl)-3-formyl-1H-pyrazole-5-carboxylate (0.99 g), hydroxylamine hydrochloride (0.39 g) and sodium acetate (0.61 g) were stirred at RT in a mixture of 5 ml of ethanol and 3 ml of water for 30 min. The mixture was diluted with methyl tert-butyl ether, washed with saturated sodium chloride solution and dried over sodium sulphate. Distillative removal of the solvent gave the desired target product.

reactant | Methyl 1-(3-chloropyridin-2-yl)-3-formyl-1H-pyrazole-5-carboxylate | 0.99 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C=O | C11H8ClN3O3
reactant | hydroxylamine hydrochloride | 0.39 g | Cl.NO
reactant | sodium acetate | 0.61 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | methyl 1-(3-chloropyridin-2-yl)-3-[(hydroxyimino)methyl]-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C=NO | C11H9ClN4O3
